US06969710B2
2-(Methylsulfonyl)-N-[2-[phenylsulfonyl)amino]-4-(1-piperazinyl)phenyl]benzenesulfonamide was synthesized from N-{2-amino-5-(4-t-butyloxycarbonyl-piperazinyl)-phenyl}benzenesulfonamide and 2-methylsulfonylbenzenesulfonylchloride (61 mg, 0.239 mmol) according to general method 3 to give 70 mg of a purple solid. MS (posES-FIA) m/z=Found: 551.2. Calcd: 551.10. 1H-NMR δ 8.36-7.46 (m, 9H), 6.95 (d, 1H), 6.68 (dd, 1H), 6.46 (d, 1H), 3.47 (s, 3H), 3.28-3.17 (m, 8H).

reactant | N-{2-amino-5-(4-t-butyloxycarbonyl-piperazinyl)-phenyl}benzenesulfonamide | NC1=C(C=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C)NS(=O)(=O)C1=CC=CC=C1 | C21H28N4O4S
reactant | 2-methylsulfonylbenzenesulfonylchloride | 0.239 mmol, 61 mg | CS(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)Cl | C7H7ClO4S2
product | benzenesulfonamide | C1(=CC=CC=C1)S(=O)(=O)N | C6H7NO2S
